US07259266B2
Step 1. Preparation of 4-[(trimethylsilyl)ethynyl]benzenesulfonamide
To a solution of 4-bromobenzenesulfonamide (4.51 g, 19.1 mmole) in toluene (900 mL) at 75° C. was added ethynyl(trimethyl)silane (4 g, 40 mmole), Pd(PPh3)4 (1.3 g, 1.1 mmole), CuI (0.46 g, 2.42 mmole) and TEA (5.7 g, 56 mmole) and the mixture was allowed to cool to room temperature while stirring. Additional Pd(PPh3)4 (1 g, 0.9 mmole) was added and the mixture was stirred at room temperature. After 5 days, ethyl ether was added and the mixture was washed with 10% HCl, H2O, sat. aqueous NH4Cl, dried over Na2SO4 and concentrated in vacuo to give 2.93 g (61% yield) of the product: ESHRMS m/z 271.0935 (M+NH4, C11H15NO2SSiNH4, Calc'd 271.0937).

reactant | 4-bromobenzenesulfonamide | 19.1 mmole, 4.51 g | BrC1=CC=C(C=C1)S(=O)(=O)N | C6H6BrNO2S
reactant | ethynyl(trimethyl)silane | 40 mmole, 4 g | C(#C)[Si](C)(C)C | C5H10Si
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | toluene | 900 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 1.1 mmole, 1.3 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 2.42 mmole, 0.46 g | [Cu]I
catalyst | Pd(PPh3)4 | 0.9 mmole, 1 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[(trimethylsilyl)ethynyl]benzenesulfonamide | 2.93 g, 61% yield | C[Si](C)(C)C#CC1=CC=C(C=C1)S(=O)(=O)N | C11H15NO2SSi
